US05324747
A mixture of 6.5 g of N-[3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]phenyl]-N-[2-(phenylmethoxy)-2-oxoethyl]glycine phenylmethyl ester and 1.5 g of 10% palladium on carbon in 200 ml of THF was stirred in a hydrogen atmosphere at room temperature for 2.5 hours. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to a solid which was triturated with hexane. Filtration gave 4.73 g (94% yield, mp 91°-94°) of N-(carboxymethyl)-N-[3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]phenyl]glycine.

reactant | N-[3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]phenyl]-N-[2-(phenylmethoxy)-2-oxoethyl]glycine phenylmethyl ester | 6.5 g | C1(=CC=CC=C1)COC(CN(CC(=O)OCC1=CC=CC=C1)C1=CC(=CC(=C1)OCCCCC(=O)OC)OCCCCCCCCCCCCCCCCCC)=O | C48H69NO8
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | N-(carboxymethyl)-N-[3-(octadecyloxy)-5-[(5-methoxy-5-oxopentyl)oxy]phenyl]glycine | 4.73 g, 94% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCC(=O)OC)OCCCCCCCCCCCCCCCCCC | C34H57NO8
